US04452809
Trans-4-(2,3-dimethylphenoxy)-3-pyrrolidinol Hydrobromide
A solution of 9.1 g. (0.031 mole) of trans-4-(2,3-dimethylphenoxy)-1-phenylmethyl-3-pyrrolidinol in 100 liters of ethanol was hydrogenated over 10% palladium-on-charcoal at 50 psi and 60° C. until hydrogen uptake ceased. The mixture was filtered through Celite and the filtrate was concentrated to give an oil as residue which solidified upon standing. The solid was converted to the hydrobromide and this salt was recrystallized from isopropyl alcohol-ethylacetate-diethylether to yield 4.9 g (55%) of tan needles, m.p. 152°-3° C.

reactant | trans-4-(2,3-dimethylphenoxy)-1-phenylmethyl-3-pyrrolidinol | 0.031 mole | CC1=C(O[C@H]2[C@@H](CN(C2)CC2=CC=CC=C2)O)C=CC=C1C | C19H23NO2
reactant | hydrogen | [H][H] | H2
reactant | hydrobromide | Br | BrH
solvent | ethanol | 100 liters | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | Trans-4-(2,3-dimethylphenoxy)-3-pyrrolidinol Hydrobromide | 4.9 g, 55% | Br.CC1=C(O[C@H]2[C@@H](CNC2)O)C=CC=C1C | InChI=1S/C12H17NO2.BrH/c1-8-4-3-5-11(9(8)2)15-12-7-13-6-10(12)14;/h3-5,10,12-14H,6-7H2,1-2H3;1H/t10-,12-;/m1./s1
